US06479490B2
A mixture of 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (0.2 g, 6 mmol) and 3-(tert-butyldimethylsilyloxy)propionaldehyde (0.25 g, 13 mmol) in CH2Cl2 (10 mL) and MeOH (5 mL) was stirred at room temperature for 15 min and then NaCNBH3 (57 mg, 1.5 eq) was added. The reaction mixture was stirred at RT overnight and then concentrated under vacuo. The residue was purified by preparatory TLC to give 98 mg 3-(1-methylindol-3-yl)-4-[3-(3-tert-butyldimethylsilyloxypropylamino)phenyl]-1H-pyrrole-2,5-dione (32%) MS (LSIMS): (M+H)+ 490, MP: 58-65° C.

reactant | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 6 mmol, 0.2 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
reactant | 3-(tert-butyldimethylsilyloxy)propionaldehyde | 13 mmol, 0.25 g | [Si](C)(C)(C(C)(C)C)OCCC=O | C9H20O2Si
reactant | NaCNBH3 | 57 mg, 1.5 eq | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(1-methylindol-3-yl)-4-[3-(3-tert-butyldimethylsilyloxypropylamino)phenyl]-1H-pyrrole-2,5-dione | 98 mg, 32% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)NCCCO[Si](C)(C)C(C)(C)C)=O)=O | C28H35N3O3Si
